US08309593B2
Preparation of AIV: Synthesis of Compound 289: benzyl (1R,2R)-1-hydroxy-1-(4-methoxyphenyl)-3-(pyrrolidin-1-yl)propan-2-ylcarbamate
Mesityl chloride (0.28 mL, 3.6 mmol) was added slowly to a cold (−10° C.) solution of benzyl (1R,2R)-1,3-dihydroxy-1-(4-methoxyphenyl)propan-2-ylcarbamate (1.07 g, 3.23 mmol) in pyridine (1.5 mL). The mixture was stirred for 30 min and then pyrrolidine (2.7 mL, 33 mmol) was added slowly to the mixture. The mixture was heated to 45° C. for 6 hours and then the solvent was removed to dryness. After purification by column chromatography (SiO2, using a mixture of CH2Cl2, MeOH, NH4OH), the product was obtained as a clear oil (0.816 g, 66% yield).

reactant | Mesityl chloride | 3.6 mmol, 0.28 mL | C1(=C(C(=CC(=C1)C)C)Cl)C | C9H11Cl
reactant | benzyl (1R,2R)-1,3-dihydroxy-1-(4-methoxyphenyl)propan-2-ylcarbamate | 3.23 mmol, 1.07 g | O[C@@H]([C@@H](CO)NC(OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C18H21NO5
reactant | pyrrolidine | 33 mmol, 2.7 mL | N1CCCC1 | C4H9N
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | benzyl (1R,2R)-1-hydroxy-1-(4-methoxyphenyl)-3-(pyrrolidin-1-yl)propan-2-ylcarbamate | 0.816 g, 66% yield | O[C@@H]([C@@H](CN1CCCC1)NC(OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C22H28N2O4
